US08389743B2
[3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutyl]-piperidin-1-yl-methanone
To a solution of crude intermediate 17, 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid (˜4.3 mL ˜0.65 mmol) was added piperidine (0.13 ml, 1.29 mmol) and T3P (50 wt % solution in EtOAc, 0.62 ml, 0.97 mmol). The resulting reaction mixture was stirred at RT for 1 hr and then 25 ml of 1N NaOH and 100 ml of EtOAc were added and the layers were separated. The aqueous layer was subjected to EtOAc extraction (2×60 ml) again and the combined organic layers were dried over MgSO4 and evaporated. The residue was purified by flash column chromatography using a 40 g ISCO™ column, eluting with 5% MeOH/CH2Cl2 containing 0.25% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to give the title compound (113 mg, 46% yield). Rf=0.80 (20% MeOH/CH2Cl2+0.2% NH4OH); LRMS m/z Calcd for C21H29Cl N2 O2, 376.9, found, 377.1 (M+1) APCI; 400 MHz 1H NMR (CDCl3) δ 7.47 (d, J=2.1 Hz, 1H), 7.42 (d, J=7.9 Hz, 1H), 7.34 (dd, J=7.9, 1.7 Hz, 1H), 3.70 (s, 2H), 3.54-3.48 (m, 2H), 3.32-3.26 (m, 2H), 3.02-2.93 (m, 1H), 2.75-2.67 (m, 2H), 2.65-2.51 (m, 6H), 1.78-1.71 (m, 4H), 1.63-1.44 (m, 6H); 100 MHz 13C NMR (CDCl3) δ 173.5, 146.3, 135.4, 133.9, 130.8, 126.5, 123.7, 72.9, 56.7, 54.3, 46.8, 43.5, 41.0, 28.4, 26.8, 25.8, 24.7, 23.7.

reactant | 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | ˜0.65 mmol, ˜4.3 mL | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20ClNO3
reactant | piperidine | 1.29 mmol, 0.13 ml | N1CCCCC1 | C5H11N
reactant | T3P | 0.97 mmol, 0.62 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | [3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutyl]-piperidin-1-yl-methanone | 113 mg, 46% yield | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)N1CCCCC1)O | C21H29ClN2O2
